US07872014B2
A solution of 6-fluoro-2,2-dimethyl-4H-1,3-benzodioxin-8-ol (21.4 g, 108 mmol) in DMF (200 mL) was treated with cesium carbonate (70.4 g, 216 mmol) and benzyl bromide (14.1 mL, 119 mmol) for 1 h 45 min at rt. Water was added and the resulting aqueous mixture was extracted twice with ethyl acetate. The organic extracts were combined, washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was recrystallized from ethanol. The recovered white crystalline product was rinsed with hexanes providing 6-fluoro-2,2-dimethyl-8-[(phenylmethyl)oxy]-4H-1,3-benzodioxine (23.04 g, 80 mmol, 74% yield). 1H NMR (400 MHz, CDCl3): δ7.43-7.29 (m, 5H), 6.51 (dd, 1H), 6.31 (dd, 1H), 5.15 (s, 2H), 4.80 (s, 2H), 1.59 (s, 6H); GCMS for C17H17FO3: 288 (M+).

reactant | 6-fluoro-2,2-dimethyl-4H-1,3-benzodioxin-8-ol | 108 mmol, 21.4 g | FC1=CC2=C(OC(OC2)(C)C)C(=C1)O | C10H11FO3
reactant | cesium carbonate | 216 mmol, 70.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 119 mmol, 14.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 6-fluoro-2,2-dimethyl-8-[(phenylmethyl)oxy]-4H-1,3-benzodioxine | 80 mmol, 23.04 g, 74% yield | FC1=CC2=C(OC(OC2)(C)C)C(=C1)OCC1=CC=CC=C1 | C17H17FO3
